* 5E4-A (Tweed Super-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published 5E4-A
* (G-EE) drawing's component values (see meta.yaml); no drawing reproduced.
*
* THE DESIGNATION IS THE DRAWING'S OWN. Fender's title block reads
* "FENDER 'SUPER-AMP' SCHEMATIC / MODEL 5E4-A*", with the asterisk pointing at
* the sheet's own footnote "*NOTE — (A) WAS 22 K OHMS". This entry is filed
* under 5e4a because that is what the sheet says. See notes.md.
*
* DC conventions (as in the sibling 5F4): B+1 is DRIVEN at the printed +390 V
* and every node below it is DERIVED. The 5U4GA, its HT winding and the
* reservoir ahead of B+1 are not modelled. The choke between B+1 and B+2 is
* modelled as a DCR estimate (the drawing prints 390 -> 385 across it). Output-
* transformer primary DCR is omitted, so both 6V6GT plates sit at B+1. The
* selenium bias supply (18 kΩ + selenium cell + 100 µF/56 kΩ) is replaced by an
* ideal -32 V source at its printed value: it is a rectifier/filter network, not
* an operating point this netlist can solve. DC-open caps are MODELLED where
* BOTH leads land on a named DC node (the interstage coupler C8, the cathodyne
* output couplers C9/C10 and the cathode-bypass cans C3/C4): open at DC they
* move no operating point, but modelling them fixes the inter-stage routing and
* the push-pull phase in the data. Caps with a lead inside the abstracted
* volume/tone network stay out. Heaters and the pilot lamp are not modelled.
.include models/12ay7.inc
.include models/12ax7.inc
.include models/6v6gt.inc

VBP1 BP1 0 DC 390
VBIAS NBIAS 0 DC -32

* rail: choke -> screens/OT node, 10k -> 12AX7 node, 10k -> 12AY7 node
RCHOKE BP1 BP2 60
RD1 BP2 BP3 10k
RD2 BP3 BP4 10k

* --- V1 12AY7 — two channels on ONE shared 820 Ohm cathode ---------------------
* The 68 kOhm input resistors carry no DC; each grid returns through its 1 MOhm
* leak at the jacks. Both halves share R K1/C3, so neither solves alone.
RL1 BP4 PAY1 100k
XV1A PAY1 GAY1 KAY 12AY7
RG1 GAY1 0 1meg
RL2 BP4 PAY2 100k
XV1B PAY2 GAY2 KAY 12AY7
RG2 GAY2 0 1meg
RK1 KAY 0 820
C3 KAY 0 25u

* --- V2 12AY7 — gain stage + DC-coupled cathode follower ----------------------
* The 5F4 puts a 12AX7 here; the 5E4-A sheet prints a second 12AY7. V2A's grid
* reference is the sheet's 5 MOhm resistor returned to the tone network's
* bass-branch node, which its own 220 kOhm leak holds at about 0 V DC — entered
* here as a single 5 MOhm leak to ground (the 270 kOhm mixers reach ground
* through the volume pots, and grid current is ~0 either way).
RL3 BP4 P2A 100k
XV2A P2A G2A K2A 12AY7
RG3 G2A 0 5meg
RK2 K2A 0 1.5k
C4 K2A 0 25u
XV2B BP4 P2A KCF 12AY7
RKCF KCF 0 100k

* --- V3 12AX7 — driver + SPLIT-LOAD (cathodyne) phase inverter ------------------
* Exactly the arrangement the 5F4 inherits: V3A is a plain cathode-biased gain
* stage (100 kOhm plate, 1.5 kOhm cathode) fed DC-direct from the tone network,
* coupled by C8 into the cathodyne — 56 kOhm plate, 1.5 kOhm + 56 kOhm under the
* cathode, 1 MOhm grid leak returned to the 1.5k/56k junction. The tone network's
* own path to ground (220k + 100k + 220k and the bass track) is the driver grid's
* DC reference; entered as one 470 kOhm leak, since no grid current flows.
* The 56 kOhm speaker feedback and the 5 kOhm presence network land on V3A's
* cathode; at DC that parallels RK3 with ~56 kOhm through the output secondary —
* about -2.6% on a +1.6 V node. Annotation, not modelled.
RLA BP3 PPIA 100k
XV3A PPIA GPIA KPIA 12AX7
RGPI GPIA 0 470k
RK3 KPIA 0 1.5k
C8 PPIA GPIB 0.02u
RLB BP3 PPIB 56k
XV3B PPIB GPIB KPI 12AX7
RGB GPIB JPI 1meg
RKA KPI JPI 1.5k
RKB JPI 0 56k

* --- 6V6GT pair, fixed bias ----------------------------------------------------
* The change that separates this revision from the plain 5E4 the family file
* documents: 6V6GT where the wide-panel Supers ran 6L6G. Grids return to the
* -32 V selenium supply through 220 kOhm leaks; screens tie straight to B+2 with
* no screen resistors, exactly as on the sheet; cathodes are grounded.
RGL1 NBIAS G51 220k
XV4 BP1 BP2 G51 0 6V6GT
RGL2 NBIAS G52 220k
XV5 BP1 BP2 G52 0 6V6GT
* Cathodyne -> output-grid drive: C9 carries the cathodyne's 56 kOhm PLATE to the
* V4 grid and C10 its CATHODE to the V5 grid — the split-load pair of outputs the
* sheet draws — each through a 1.5 kOhm stopper. DC-open, so the operating point
* is unmoved; modelled so the layout-equivalence gate checks the routing natively.
C9 PPIB NG51 0.1u
R5s NG51 G51 1.5k
C10 KPI NG52 0.1u
R6s NG52 G52 1.5k
